US08609692B2
N-(5-nitroisoquinolin-3-yl)acetamide
A solution of N-(isoquinolin-3-yl)acetamide (3.89 g, 20.9 mmol) in concentrated H2SO4 (40 mL) was cooled to 0° C. and solid potassium nitrate (2.53 g, 25.1 mmol) was added slowly in portions over 10 min. After stiffing for 1 h at 0° C., the reaction mixture was poured over ice (50 g), and neutralized with concentrated NH4OH solution. The resulting yellow solid was collected by vacuum filtration, washed with water, and dried in the vacuum oven at ambient temperature for 48 hours. This material was triturated with 1:1 CH3OH—CH2Cl2, collected by filtration, washed with CH2Cl2, and dried under vacuum. This provided 4.14 g of the title compound as a yellow solid in approximately 60% purity. MS (ESI+) m/z 232 (M+H)+.

reactant | N-(isoquinolin-3-yl)acetamide | 20.9 mmol, 3.89 g | C1=NC(=CC2=CC=CC=C12)NC(C)=O | C11H10N2O
reactant | potassium nitrate | 25.1 mmol, 2.53 g | [N+](=O)([O-])[O-].[K+]
reactant | NH4OH | [NH4+].[OH-]
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
product | N-(5-nitroisoquinolin-3-yl)acetamide | [N+](=O)([O-])C1=C2C=C(N=CC2=CC=C1)NC(C)=O | C11H9N3O3
